US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
Ethyl 7-chloro-6-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (580 mg, 1635 μmol) was dissolved in 1,4-dioxane (3270 μL) and N-ethyl-N-isopropylpropan-2-amine (854 μL, 4905 μmol). tert-Butyl 2-aminoacetate hydrochloride (411 mg, 2452 μmol) was added, and the reaction was stirred at 80° C. for 2 hours. The reaction was then diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 75 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title (30 mg) compound as a white solid after flash chromatography. MS m/e=440 (M+H)+.

reactant | Ethyl 7-chloro-6-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 1635 μmol, 580 mg | ClC1=C(C=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)OCC)O)F | C17H16ClFO5
reactant | N-ethyl-N-isopropylpropan-2-amine | 4905 μmol, 854 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 2452 μmol, 411 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 3270 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 30 mg | ClC1=C(C=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O)F | C21H23ClFNO6
